US04990495
5 g of 5,9-cyclododecadien-1,2-diol, 2.4 g of valeric aldehyde, a spatula of p-toluenesulfonic acid and 200 ml of 80/100 petroleum ether were charged into a 250 ml two-neck flask equipped with a water separator and the mixture was taken to reflux for 1 h. The reaction mixture was then poured on ice, neutralized with brine, dried and concentrated. Distillation in a bulb-to-bulb apparatus produced 6.06 g of 14-butyl-13,15-dioxabicyclo[10.3.0]pentadeca-4,8-diene.

reactant | 5,9-cyclododecadien-1,2-diol | 5 g | C1(C(CCC=CCCC=CCC1)O)O | C12H20O2
reactant | valeric aldehyde | 2.4 g | CCCCC=O | C5H10O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 14-butyl-13,15-dioxabicyclo[10.3.0]pentadeca-4,8-diene | 6.06 g, yield 90% | C(CCC)C1OC2CCC=CCCC=CCCC2O1 | C17H28O2
